US06518267B1
a) 3-Bromo-benzoic Acid Tert-butyl Ester
2,4,6-Trichlorobenzoic acid (11.7 ml, 75 mmol) was added dropwise to a solution of 3-bromobenzoic acid (15 g, 75 mmol), triethyl amine (10.5 ml, 75 mmol) in THF (25 ml) at RT. The reaction was stirred 15 min. Then, t-butanol (7.1 ml, 150 mmol) and DMAP (18.3 g, 150 mmol) were added and the reaction was stirred overnight. The crude reaction was filtered through a pad of silica gel, concentrated, and was used in the next reaction without further purification.

reactant | 2,4,6-Trichlorobenzoic acid | 75 mmol, 11.7 ml | ClC1=C(C(=O)O)C(=CC(=C1)Cl)Cl | C7H3Cl3O2
reactant | 3-bromobenzoic acid | 75 mmol, 15 g | BrC=1C=C(C(=O)O)C=CC1 | C7H5BrO2
reactant | triethyl amine | 75 mmol, 10.5 ml | C(C)N(CC)CC | C6H15N
reactant | t-butanol | 150 mmol, 7.1 ml | C(C)(C)(C)O | C4H10O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
catalyst | DMAP | 150 mmol, 18.3 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-Bromo-benzoic Acid Tert-butyl Ester | C(C)(C)(C)OC(C1=CC(=CC=C1)Br)=O | C11H13BrO2
